US07842685B2
To a slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine (22.3 g, 51.6 mmol) in 200 mL THF was added 200 mL 5N HCl. The reaction mixture became warm, was fitted with a water-cooled reflux condenser, and was heated to 65° C. in an oil bath under argon. After 3 h, the reaction was nearly homogeneous. The bath was turned off and the reaction allowed to stir overnight. In the morning a nice yellow precipitate was evident. The THF was removed in vacuo, and the resulting slurry was filtered, rinsing with water, and dried under nitrogen, then dried in vacuo overnight to give 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde as a light orange solid. MS (ESI) m/z: Calculated: 374.1; Observed: 375.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine | 51.6 mmol, 22.3 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C25H21FN2O2S
reactant | HCl | 5N, 200 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
